Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing / Unasyn
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
     Mr. ___ is a ___ y/o man with PMHx of obesity, CAD s/p 
PCI, T2DM (last HgbA1c 5.9 in ___, HTN, HLD, and 
degenerative disc disease, who presented from an OSH to the ED 
with back pain. Two days prior, he took a fall striking his 
lower back against the ground. He develped excruciating 
shocklike pain radiating down both legs. Pain became so severe 
he went to ___, where he had XRAYs and CT spine that were 
negative for fracture. He denied any LOC or head strike. No 
saddle anesthesia, no incontinence or retention, last urination 
a few hours ago. No IVDA. No fevers or chills. Patient was 
transferred here for further work-up.  
     In the ED, initial vitals were: 98.2 68 128/68 18 97% with 
___ pain. Exam notable for TTP over L spine and paraspinal 
region with R greater than left. ___ motor of RLE, ___ LLE. 
Subjective numbness over proximal anterior RLE. Normal rectal 
tone with normal perianal sensation. Unable to stand secondary 
to pain. Labs were significant for a normal Chem 7. Imaging was 
significant for an MRI L spine with "Paracentral disc bulges 
cause moderate neural foraminal narrowing on the right at L3-L4 
and severe narrowing on the left at L4-L5. No acute fracture or 
hematoma within the lumbar spine." The patient was given 
Diazepam 10mg x1, Ketorolac 30mg x1, Dilaudid 0.5mg x2.  
- Consult: Pt seen by nuerosurgery who recommended demadol+ 
Ibuprofen (800mg TID) with omeprazole. Also recommended Flexeril 
10mg TID.  
     Upon arrival to the floor, patient reports ongoing back 
pain and "shooting" pain down his legs. Reports that the only 
medicine to help was dilaudid.  

 
Past Medical History:
- HTN  
- CAD s/p PCI (inferior MI in ___, primary angioplasty 
distal to proximal RCA, PCI mid-LAD at ___ in ___ - 
Followed by ___ in ___ Cardiology 
Associates  
- OSA  
- Morbid Obesity  
- T2DM (last HgbA1c 5.9 in ___  
- TIA  
- Anxiety  
- Degenerative disc disease  
- S/p Cholecystectomy complicated by bile leak, biliary stenting 
(___)  
- HL  
- Insomnia  
- Migraine headaches  
- Cervical neck pain  
- Fibromyalgia  
- Tinea Pedis  
- Venous insufficiency  
- Peripheral edema  
- Erectile dysfunction  

 
Social History:
___
Family History:
- Brother Alive(2) CAD/PVD; Diabetes - Type II  
- Father ___ at ___ ___ CAD/PVD; Diabetes - Type II  

- Mother ___ at ___ AutoImmune Disease; CAD/PVD  
- Sister Alive(2)  
- Son Alive  

 
Physical ___:
=======================
ADMISSION PHYSICAL EXAM: 
======================= 
Vitals: 98.3F 125/68 mmHg P60 RR 20 95% on RA  
Wt: 363lbs  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Obese, Soft, non-tender, non-distended, bowel sounds 
present, no organomegaly, no rebound or guarding  
Back: TTP over L spine and paraspinal region with R greater than 
left. GU: No foley  
Rectal: Per ED, normal rectal tone with normal perianal 
sensation.  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ motor of RLE, ___ LLE. Subjective 
numbness over proximal anterior right thigh. Unable to stand 
secondary to pain  

=======================
DISCHARGE PHYSICAL EXAM:
=======================

Vitals: 97.6F 118/66 mmHg P 58 RR 20 97% on RA  
Wt: 363lbs  
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric
Neck: supple
Lungs: CTAB, no wheezes, rales, rhonchi
CV: RRR, no MRGs noted. 
Abd: Soft, obese, non-tender. NABS.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Skin: Dry; tattoos.
Neuro: ___ strength in LLE, ___ strength in RLE; much improved 
from admission.

 
Pertinent Results:
===============
Admission Labs:
===============

___ 07:30PM   GLUCOSE-84 UREA N-18 CREAT-0.7 SODIUM-140 
POTASSIUM-4.0 CHLORIDE-105 TOTAL CO2-24 ANION GAP-15

___ 05:46AM   WBC-8.3 RBC-4.86 HGB-14.5 HCT-42.9 MCV-88# 
MCH-29.8 MCHC-33.8 RDW-13.1 RDWSD-42.3

===============
Discharge Labs:
===============

None

========
Imaging:
========
MR ___ SPINE W/O CONTRAST (___):
IMPRESSION: 
1. L4-L5 left foraminal/far lateral disc protrusion with 
resulting severe left neural foraminal narrowing and mass effect 
on the exiting left L4 nerve root. 
2. Right paracentral/foraminal disc protrusion at L3-L4 
resulting in 
subarticular recess narrowing and moderate right neural 
foraminal narrowing. 
3. Additional multilevel degenerative changes as detailed above.

============
Microbiology:
============ 
None.
 
Brief Hospital Course:
___ with PMHx of CAD s/p PCI, HTN, OSA on CPAP, and DJD, 
transferred from an OSH after sustaining a fall, who presented 
with severe back pain and MRI with foraminal narrowing but no 
neurosurgical intervention indicated.  Pain significantly 
improved over the course of his hospitalization.

=============
ACUTE ISSUES:
=============

# Back pain/DJD: MRI without concerning features for acute 
surgical intervention. Pain well controlled on the following 
regimen: 
- Dilaudid 4 mg q6h PRN
- Ibuprofen 800 mg TID  
- Flexeril 10mg TID   
- Lidocaine patch (5%)
- acetaminophen 650 q6h PRN
- physical therapy

===============
CHRONIC ISSUES:
===============
# CAD s/p PCI: continued home aspirin, Plavix, and atorvastatin
# HTN: continued home metoprolol and lisinopril
# T2DM: Did not receive insulin.
# Peripheral neuropathy: continued home gabapentin
# Anxiety: continued home clonazepam and lamotrigine
# OSA: continued CPAP

===================
TRANSITIONAL ISSUES
===================
- Please follow up on patient's referral for home physical 
therapy for ongoing back pain and radiculopathy.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Atorvastatin 80 mg PO DAILY 
4. Fenofibrate 145 mg PO DAILY 
5. Metoprolol Succinate XL 100 mg PO DAILY 
6. Lisinopril 10 mg PO DAILY 
7. Ibuprofen 800 mg PO Q8H:PRN pain 
8. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
9. Vitamin D ___ UNIT PO DAILY 
10. Gabapentin 600 mg PO DAILY 
11. Docusate Sodium 100 mg PO DAILY:PRN constipation 
12. ClonazePAM 2 mg PO QHS 
13. LaMOTrigine 25 mg PO QHS 
14. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
15. Methocarbamol 1000 mg PO TID:PRN pain 
16. Furosemide 50 mg PO DAILY:PRN leg swelling 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
2. Aspirin 325 mg PO DAILY 
3. Atorvastatin 80 mg PO DAILY 
4. ClonazePAM 2 mg PO QHS 
5. Clopidogrel 75 mg PO DAILY 
6. Docusate Sodium 100 mg PO DAILY:PRN constipation 
7. Fenofibrate 145 mg PO DAILY 
8. Gabapentin 600 mg PO DAILY 
9. Ibuprofen 800 mg PO Q8H:PRN pain 
10. LaMOTrigine 25 mg PO QHS 
11. Lisinopril 10 mg PO DAILY 
12. Metoprolol Succinate XL 100 mg PO DAILY 
13. Vitamin D ___ UNIT PO DAILY 
14. Acetaminophen 1000 mg PO TID 
15. Cyclobenzaprine 10 mg PO TID:PRN back pain 
16. Lidocaine 5% Patch 2 PTCH TD QAM back pain 
17. Furosemide 50 mg PO DAILY:PRN leg swelling 
18. Methocarbamol 1000 mg PO TID:PRN pain 
19. HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN pain 
20. Outpatient Physical Therapy
Please evaluate for outpatient physical therapy assessment and 
treatment.
Back Pain s/p Fall with Radiculopathy
ICD-9 724.5
Contact: Dr. ___ (PCP) ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- acute on chronic back pain

Secondary Diagnoses:
- anxiety
- type 2 diabetes mellitus
- OSA
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for 
low back pain after a fall. You received an MRI scan, which 
showed that you did not break any bones. You were treated with 
several pain medications and physical therapy, after which your 
pain improved.

We wish you the very best!

-Your ___ Team
 
Followup Instructions:
___